US07273877B2
2,3,4,5,6-Pentafluorophenyl 1-methyl-4-(2-naphthylamino)-6-oxo-1,6-dihydro-3-pyridinecarboxylate in THF was reacted with conc. NH3 solution as for example 37, step B. The crude product was recrystallised (MeOH/EtOAc) to give 1-methyl-4-(2-naphthylamino)-6-oxo-1,6-dihydro-3-pyridinecarboxamide as a white solid (87%); m.p. (MeOH/EtOAc) 254-257° C. 1H NMR [400 MHz, (CD3)2SO] δ 10.56 (s, 1H), 8.35 (s, 1H), 7.95-7.86 (m, 4H), 7.74 (d, J=1.9 Hz, 1H), 7.53-7.42 (m, 3H), 7.39 (dd, J=8.7, 2.1 Hz, 1H), 5.86 (s, 1H), 3.37 (s, 3H). LCMS (ACPI−) 292 (100%). Anal. Calcd for C17H15N3O2: C, 69.6; H, 5.2; N, 14.3. Found C, 69.4; H, 5.2; N, 14.5.

reactant | 2,3,4,5,6-Pentafluorophenyl 1-methyl-4-(2-naphthylamino)-6-oxo-1,6-dihydro-3-pyridinecarboxylate | CN1C=C(C(=CC1=O)NC1=CC2=CC=CC=C2C=C1)C(=O)OC1=C(C(=C(C(=C1F)F)F)F)F | C23H13F5N2O3
reactant | NH3 | N | H3N
solvent | THF | C1CCOC1 | C4H8O
product | 1-methyl-4-(2-naphthylamino)-6-oxo-1,6-dihydro-3-pyridinecarboxamide | 87% | CN1C=C(C(=CC1=O)NC1=CC2=CC=CC=C2C=C1)C(=O)N | C17H15N3O2
